US08138333B2
1-(Phenylsulfonyl)-1H-indole-4-carbaldehyde
1H-Indole-4-carbaldehyde (24.8 g, 0.17 mol) was dissolved in dry DMF (500 ml), cooled in ice-bath and NaH (7.5 g (60% suspension in oil), 0.19 mol, 1.1 eq.) was added. After stirring for a few minutes, the cold bath was removed and the r×n mixture was stirred at room temperature for 40 min. under Ar. The insoluble NaH clumps were brought in solution by means of sonication for a few minutes. The mixture was cooled in ice-bath and benzenesulfonyl chloride (23.9 ml, 0.188 mol, 1.1 e.q.) was added dropwise over 3 min. The reaction mixture was stirred at room temperature for 1 hour, then poured slowly into a mixture of water (1 L) and EtOAc (200 ml). The aqueous phase was extracted with EtOAc (5×100 ml), the organic phase was washed with brine (200 ml), dried over Na2SO4 and evaporated. The residue was purified on silica flash column using petroleum ether/EtOAc (1:1) giving the product as a colorless crystalline solid. Yield: 45.5 g. MS m/z 286 [M+H]+.

reactant | 1H-Indole-4-carbaldehyde | 0.17 mol, 24.8 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | NaH | 0.19 mol, 7.5 g, 1.1 eq. | [H-].[Na+]
reactant | benzenesulfonyl chloride | 0.188 mol, 23.9 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 1 L | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | 1-(Phenylsulfonyl)-1H-indole-4-carbaldehyde | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C=O | C15H11NO3S
